US09227975B2
To a DCM (0.1 mL) solution of (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine (Preparation B; 6 mg, 0.019 mmol) cooled in an ice bath was added acetic anhydride (2.1 mg, 0.021 mmol), followed by pyridine (2 mg, 0.025 mmol). The reaction was warmed to ambient temperature and stirred for 1 hour before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 5 to 60% acetonitrile/water to yield (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)acetamide as an off-white solid (6 mg, 81% yield). MS (apci) m/z=358.2 (M+H).

reactant | (R)-6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-amine | 0.019 mmol, 6 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)N | C16H15F2N5
reactant | acetic anhydride | 0.021 mmol, 2.1 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.025 mmol, 2 mg | N1=CC=CC=C1 | C5H5N
solvent | DCM | 0.1 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(6-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)imidazo[1,2-b]pyridazin-3-yl)acetamide | 6 mg, 81% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C=1C=CC=2N(N1)C(=CN2)NC(C)=O | C18H17F2N5O
